US04640703
122.5 g (0.518 mole) of 4-(3-amino-5-chloropyridin-2-yloxy)phenol are introduced at -8° to 0° C. into a vessel charged with 400 g (20 moles) of hydrogen fluoride. Then 37.3 g (0.540 mole) of sodium nitrite are added in portions over one hour. The mixture is stirred for 2 hours at 0° C. and slowly heated to 55° C. in an autoclave. Excess hydrogen fluoride is removed by distillation and the residue is taken up in 200 ml of methylene chloride and the solution is neutralised with ice-water and ammonia, the organic phase is dried and concentrated by evaporation, affording 112 g of 4-(5-chloro-3-fluoropyridin-2-yloxy)phenol with a melting point of 97°-98° C.

reactant | 4-(3-amino-5-chloropyridin-2-yloxy)phenol | 0.518 mole, 122.5 g | NC=1C(=NC=C(C1)Cl)OC1=CC=C(C=C1)O | C11H9ClN2O2
reactant | hydrogen fluoride | 20 moles, 400 g | F | FH
reactant | sodium nitrite | 0.540 mole, 37.3 g | N(=O)[O-].[Na+]
product | 4-(5-chloro-3-fluoropyridin-2-yloxy)phenol | 112 g | ClC=1C=C(C(=NC1)OC1=CC=C(C=C1)O)F | C11H7ClFNO2
